Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Bactrim / Sulfa (Sulfonamide Antibiotics) / Tizanidine
 
Attending: ___
 
Chief Complaint:
Abdominal pain 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ recent appendectomy for perforated appendicitis ___ c/b 
multi-loculated fluid collections requiring ___ drainage x2 
discharged ___ who re-presents to the ED with ___ days of 
abdominal pain. Of significance, patient initially presented to 
the ED with perforated appendicitis, and was initially managed
with IV antibiotics. However, she had worsening abdominal pain, 
and was taken to the OR for laparoscopic appendectomy. Her 
post-operative course was complicated by multi-lobulated fluid 
collections requiring ___ drainage on ___ and ___. She was 
eventually discharged on ___. She saw Dr. ___ on follow-up 
on ___ when her ___ drains were discontinued.  Patient states 
that about ___ days ago, she started to experience abdominal 
pain. She describes the location of the pain as epigastric and 
in the LUQ. She complains of nausea, but denies emesis. She also 
denies fever/chills. She is tolerating regular
diets as well as having regular BMs.

 
Past Medical History:
PMH: HTN, hypothyroidism, endometriosis, migraine, 
endometriosis.

PSH: laparoscopic appendectomy ___ (___), 
hysteroscopy/polypectomy/myomectomy/D&C, insertion of mirena IUD
laparoscopic left ovarian cystectomy and cystoscopy 

 
Social History:
___
Family History:
Patient is from ___ originally.  She lives in ___ 
with her husband, ___.  She is a ___ grade ___ in ___.  
The patient reports that her father passed away in ___ from ___ 
body dementia.
 
Physical Exam:
Admission Physical Exam:

VS: 98.6/98.6, 86, 113/76, 18, 100%RA
General: AAOX3
HEENT: WNL
Cardiac: Normal S1, S2
Respiratory: RA, equal breath sounds
Abdomen: Soft, tender LUQ, no rebound or guarding.
Skin: No lesions

Discharge Physical Exam:
VS: T: 98.5 PO BP: 135/85 L Sitting HR: 70 RR: 18 O2: 97% Ra 
GEN: A+Ox3, NAD
CV: Regular rate
PULM: No respiratory distress, breathing comfortably on room air
ABD: soft, non-tender, non-distended
EXT: no edema
 
Pertinent Results:
IMAGING:

___: CT Abdomen/Pelvis:
1. New mesenteric stranding in left mid upper abdomen without 
clear 
abnormality of the adjacent bowel.  No drainable collection.  No 
bowel 
obstruction. 
2. No evidence of abdominopelvic drainable fluid collections or 
discrete 
abscess.  Resolution of prior pericecal fluid collection and 
pelvic free 
fluid. 

___: CT Abdomen/Pelvis:
1. Persistent mild inflammatory wall thickening of the cecum and 
surrounding soft tissues in the right lower quadrant with wall 
thickening of the sigmoid colon which closely abuts the surgical 
bed.  No drainable fluid collections.  Orally ingested contrast 
is seen traversing through nondilated small bowel loops into the 
cecum without a leak. 
2. Interval resolution of previously noted stranding of left 
upper quadrant mesentery. 

LABS:

___ 05:06PM URINE  UCG-NEGATIVE
___ 04:30PM URINE  COLOR-Straw APPEAR-Hazy* SP ___
___ 04:30PM URINE  BLOOD-TR* NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 04:30PM URINE  RBC-<1 WBC-2 BACTERIA-NONE YEAST-NONE 
EPI-6
___ 04:30PM URINE  MUCOUS-OCC*
___ 03:00PM   GLUCOSE-93 UREA N-13 CREAT-0.7 SODIUM-140 
POTASSIUM-3.9 CHLORIDE-98 TOTAL CO2-28 ANION GAP-14
___ 03:00PM   ALT(SGPT)-20 AST(SGOT)-19 ALK PHOS-80 TOT 
BILI-0.2
___ 03:00PM   ALBUMIN-4.8
___ 03:00PM   WBC-10.7* RBC-3.72* HGB-10.8* HCT-32.8* 
MCV-88 MCH-29.0 MCHC-32.9 RDW-12.7 RDWSD-40.8
___ 03:00PM   NEUTS-64.5 ___ MONOS-7.2 EOS-2.3 
BASOS-0.5 IM ___ AbsNeut-6.88* AbsLymp-2.69 AbsMono-0.77 
AbsEos-0.25 AbsBaso-0.05
___ 03:00PM   PLT COUNT-281
 
Brief Hospital Course:
Ms. ___ is a ___ with history of recent appendectomy for 
perforated appendicitis on ___ complicated by 
multi-loculated fluid collections requiring ___ drainage x2 
discharged ___, who re-presented to the ___ ED this 
admission with ___ days of abdominal pain.  CT scan demonstrated 
new mesenteric stranding in the left mid upper abdomen without 
clear abnormality of the adjacent bowel, no drainable 
collection, bowel obstruction, or drainable fluid collections.  
She was admitted to the Acute Care Surgery service for serial 
abdominal exams and she was made NPO with IV fluid. 

On HD2, her abdominal pain improved, but she remained tender to 
palpation in the LUQ.  She passed flatus.  She had a repeat CT 
abdomen/pelvis which demonstrated  persistent mild inflammatory 
wall thickening of the cecum and surrounding soft tissues in the 
right lower quadrant.  A c.diff toxin was sent which came back 
positive.  PO vancomycin was initiated.  The patient's abdominal 
pain improved.  Her diet was advanced to a regular diet which 
she tolerated.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan. 

 
Medications on Admission:
albuterol sulfate ___ puffs', azelastine 137mcg nasal spray,
chlorthialidone 25mg', citalopram 20mg', fluticasone 50mcg,
levothyroxine 50mg' TT, levothyroxine 100mg MWF, lisinopril
30mg', ranitidine 150mg'. 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
3.  Vancomycin Oral Liquid ___ mg PO QID 
RX *vancomycin [Firvanq] 25 mg/mL 5 mL(s) by mouth every six (6) 
hours Disp #*260 Milliliter Refills:*0 
4.  Albuterol Inhaler ___ PUFF IH Q4H:PRN shortness of breath  
5.  Chlorthalidone 25 mg PO DAILY  
6.  Citalopram 20 mg PO DAILY  
7.  Levothyroxine Sodium 50 mcg PO 4X/WEEK (___)  
8.  Levothyroxine Sodium 100 mcg PO 3X/WEEK (___)  
9.  Lisinopril 30 mg PO DAILY  
10.  Ranitidine 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Colonic inflammation due to clostridium difficile 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital with abdominal pain and had 
abdominal/pelvic CT scans showing mild inflammation of your 
colon.  You tested positive for clostridium difficile, a 
bacteria in the colon, which can lead to bowel inflammation and 
diarrhea.  You were started on a medication, called Vancomycin, 
to treat this bacterial infection.  You are now tolerating a 
regular diet and are ready to be discharged from the hospital.

Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.
 
 
Followup Instructions:
___